US04104379
A 4 g sample of 7,8-dihydroxy-1-(p-methylthiophenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine is slurred in 25 ml of acetone and 0.8 g ( ~ 10% excess) of ethylene oxide is added. The mixture is placed in a pressure bottle and stirred at ambient temperature for about 40 hours. The reaction mixture is then heated to 60°-80° for 30 minutes, cooled and filtered. Concentration of the filtrate gives a solid which is taken up in ethyl acetate and reprecipitated with ether. The solid thus obtained is dissolved in ethanol and treated with ethereal hydrogen chloride to give 7,8-dihydroxy-3-(2-hydroxyethyl)-1-(p-methylthiophenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 7,8-dihydroxy-1-(p-methylthiophenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=CC2=C(C(CNCC2)C2=CC=C(C=C2)SC)C=C1O | C17H19NO2S
reactant | ethylene oxide | 0.8 g | C1CO1 | C2H4O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dihydroxy-3-(2-hydroxyethyl)-1-(p-methylthiophenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.OC1=CC2=C(C(CN(CC2)CCO)C2=CC=C(C=C2)SC)C=C1O | InChI=1S/C19H23NO3S.ClH/c1-24-15-4-2-13(3-5-15)17-12-20(8-9-21)7-6-14-10-18(22)19(23)11-16(14)17;/h2-5,10-11,17,21-23H,6-9,12H2,1H3;1H
